US05238938
4.1 Milliliters of 1N sodium hydroxide was added to a solution of 0.71 g of 3-benzyloxy-2-isobutyl-6-methoxy-5-methoxycarbonylpyrazine 1-oxide dissolved in 15 ml of methanol, then the mixture was stirred for 14 hours at room temperature. The reaction mixture was diluted with water, and then extracted with dichloromethane. The aqueous layer was made acidic with 6.0 ml of 1N hydrochloric acid with ice cooling, then extracted with ethyl acetate. The extract was washed with an aqueous solution saturated with NaCl twice and dried over magnesium sulfate. The solvent was removed by evaporation to obtain 0.62 g of 6-benzyloxy-5-isobutyl-3-methoxypyrazine-2-carboxylic acid 4-oxide (Compound B-22).

reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | 3-benzyloxy-2-isobutyl-6-methoxy-5-methoxycarbonylpyrazine 1-oxide | 0.71 g | C(C1=CC=CC=C1)OC=1C(=[N+](C(=C(N1)C(=O)OC)OC)[O-])CC(C)C | C18H22N2O5
solvent | methanol | 15 ml | CO | CH4O
solvent | water | O | H2O
product | 6-benzyloxy-5-isobutyl-3-methoxypyrazine-2-carboxylic acid 4-oxide | 0.62 g | C(C1=CC=CC=C1)OC1=C([N+](=C(C(=N1)C(=O)O)OC)[O-])CC(C)C | C17H20N2O5
